US06380218B1
N-[5-(1-Hydroxy-ethyl)-thiophen-2-ylmethyl]-2-(pyridin-3yloxy)-nicotinamide
To a stirred suspension of N-(5-Acetyl-thiophen-2-ylmethyl)-2-(pyridin-3-yloxy)-nicotinamide (0.300 grams, 0.85 mmole) in methylene chloride (25 ml) and tetrahydrofuran (25 ml) at room temperature was added sodium borohydride (0.035 grams, 0.93 mmole) and stirred for 2 hours. The mixture was quenched with saturated NH4Cl (˜1 ml) and concentrated under reduced pressure to about 15 ml. This mixture was poured into water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 5% methanol/methylene chloride. Recrystalization from ethyl acetate/hexane gave a white solid. (0.207 g). M.P. 92-94° C.; Anal. calcd. for C18H17N3O3S: C, 60.83;H, 4.82; N, 11.82. Found: C, 60.68; H, 4.77; N, 11.89.

reactant | N-(5-Acetyl-thiophen-2-ylmethyl)-2-(pyridin-3-yloxy)-nicotinamide | 0.85 mmole, 0.300 grams | C(C)(=O)C1=CC=C(S1)CNC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C18H15N3O3S
reactant | sodium borohydride | 0.93 mmole, 0.035 grams | [BH4-].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[5-(1-Hydroxy-ethyl)-thiophen-2-ylmethyl]-2-(pyridin-3yloxy)-nicotinamide | OC(C)C1=CC=C(S1)CNC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C18H17N3O3S
